US08389508B2
To a solution of ethyl (4-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]methyl}-1-piperidinyl)acetate (D145) (80 mg, 0.148 mmol) in Isopropanol (6 mL) and Water (6.00 mL) was added NaOH (1.476 mL, 0.738 mmol). The reaction solution was heated to 90° C. for 2 hours. The solvent was removed in vacuo and the residue was acidified to pH=3-4, extracted with ethyl acetate. The combined organic phases were dried, concentrated and purified by Mass Directed AutoPrep to afford (4-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]methyl}-1-piperidinyl)acetic acid (E105) (59 mg) as a TFA salt. δH (DMSO-d6, 400 MHz): 1.01 (3H, t), 1.28 (6H, d), 1.55 (2H, m), 1.72 (3H, m), 2.62 (2H, d), 2.87 (4H, m), 3.38 (2H, m), 3.98 (2H, s), 4.79 (1H, m), 7.23 (2H, m), 7.32 (1H, d), 7.59 (1H, dd), 7.95 (1H, dd), 8.07 (1H, d). δF (DMSO-d6, 376 MHz): −73.5. MS (ES): C27H32ClN3O3S requires 513.2. found 514.2 (M+H+).

reactant | ethyl (4-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]methyl}-1-piperidinyl)acetate | 0.148 mmol, 80 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CC1CCN(CC1)CC(=O)OCC)CC | C29H36ClN3O3S
reactant | NaOH | 0.738 mmol, 1.476 mL | [OH-].[Na+]
solvent | Isopropanol | 6 mL | C(C)(C)O | C3H8O
solvent | Water | 6.00 mL | O | H2O
product | (4-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]methyl}-1-piperidinyl)acetic acid | 59 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CC1CCN(CC1)CC(=O)O)CC | C27H32ClN3O3S
